data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C=[O+][Li])P(=O)(OC)OC.C[N:10]=CN(C)C>>[H:20][N+:10](=CN(C)C)C.[Li][O+]=C[CH-:21]P(=O)(OC)OC 10=20;20,21=21
CCC1C[C:20](C2=CC=CC=C12)([NH:10]O)[OH:21].O>>CCC1C[C:20](=[NH+:10]O)C2=CC=CC=C12.O.[OH-:21] 10=20;20,21=21
CC1[CH2:20][O:21]1.C=CC[Cu:11]([CH2:10]C=C)[Mg]Br>>CC([CH2:20][CH2:10]C=C)[O-:21].C=CC[Cu+:11][Mg]Br 10,11=10,20;20,21=21
[H:20][O:21]C(C)C1CCCCC1.[H:10][Na:11]>>CC(C1CCCCC1)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CCNC(=O)CCC[NH:10]CC1CCCCC1.C1CCC(CC1)CC[N+:21]23CCC[CH:20]2C3.[Cl-]>>CCNC(=O)CCC[NH+:10](CC1CCCCC1)[CH:20]2CCC[N:21](C2)CCC3CCCCC3.[Cl-] 10=20;20,21=21
[H:20][CH:21](C(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[O:22][I+:23]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.C[Si](C)(C)CCSC(=CC=C([CH:21]=[O:22])SCC[Si](C)(C)C)CO.CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC)P(C)(C)(C)N(C(=O)OC)NC(=O)OC.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC[O:21]P(C)(C)(C)N(C(=O)OC)NC(=O)OC 10=20;20,21=21
C1=CC=C(C=C1)CCCCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)CCCCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
CCO[Si-:10](C)(C)(C)[Cl:11]>>CCO[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:20][OH:21].C[C:11](=[CH:10]CC1CCCCC1=O)[O-:12]>>[H:20][CH:10](CC1CCCCC1=O)[C:11](=[O:12])C.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21]([C:22](=[NH+:23]C1=C2C(=CC=C1)NC=N2)C)C(=O)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C[C:22](=[CH:21]C(=O)C)[NH:23]C1=C2C(=CC=C1)NC=N2.O 10=20;20,21=21,22;22,23=23
C[Si:20](C)(C)O[CH2-:10]>>C[Si-:20]1([CH2:10]O1)(C)C 10=20,
[H:20][O:21]C(=O)C.C1=CC=C(C=C1)C(=O)C(C2=CC=CC=C2)(NCCN)[OH:10]>>[H:20][OH+:10]C(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)NCCN.CC(=O)[O-:21] 10=20;20,21=21
CCOC(=O)C(=N[NH:10]C1=CC(=CC=C1)C#N)C[C:20](=[O:21])C2=CC=CO2.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+]>>CCOC(=O)C1=N[NH+:10]([C:20](C1)(C2=CC=CO2)[O-:21])C3=CC(=CC=C3)C#N.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+] 10=20;20,21=21
[H:20][CH:21](C[O-])[CH2:22][Br:23].[NH2-:10]>>[H:20][NH2:10].[CH2:22]=[CH:21]C[O-].[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.CC1=CC=C(C=C1)C(N2CCCCC2)[OH:10].CC(C)(C)CC(=O)CC#N>>[H:20][OH+:10]C(C1=CC=C(C=C1)C)N2CCCCC2.CC(=O)[O-:21].CC(C)(C)CC(=O)CC#N 10=20;20,21=21
[B:20](CCCC)(CCCC)[OH+]C(CCC1=CC=CC=C1)CC(=O)CC(C(C)C)OCC2=CC=C(C=C2)OC.[OH2:10]>>[B-:20](CCCC)(CCCC)([OH2+:10])[OH+]C(CCC1=CC=CC=C1)CC(=O)CC(C(C)C)OCC2=CC=C(C=C2)OC 10=20,
CC1=C(C=C(C(=C1)OCC(=O)[O-:10])C(=O)C)OC.C[C:20](=[O:21])OC(=O)C.CC(=O)O.[Na+]>>CC1=C(C=C(C(=C1)OCC(=O)[O:10][C:20](C)([O-:21])OC(=O)C)C(=O)C)OC.CC(=O)O.[Na+] 10=20;20,21=21
[H:20][C:21]12CC3(C4CC5=C(C3(CCN4C)C[C:22]1=[NH+:23]C(C2(C)O)C(=O)N(CC6=CC=CC=C6)C(C)C)C=CC=C5)O.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(C)N(CC1=CC=CC=C1)C(=O)C2C([C:21]3=[C:22]([NH:23]2)CC45CCN(C(C4(C3)O)CC6=C5C=CC=C6)C)(C)O.O 10=20;22,23=23;20,21=21,22
C1=CO[CH:10]=[C:11]1Br.[N+:20](=O)=[O:21]>>C1=CO[CH:10]([C+:11]1Br)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1C([O:10]1)CCCO>>[H:20][O+:10]1CC1CCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH+:21]1C(N=C2C(=C1NCC3=CC(=C(C(=C3)Br)O)Br)NC(=O)N2C4C(C(C(O4)CO)O)O)[O-].[OH-:10].[Br-]>>[H:20][OH:10].C1=C(C=C(C(=C1Br)O)Br)CNC2=C3C(=NC([NH:21]2)[O-])N(C(=O)N3)C4C(C(C(O4)CO)O)O.[Br-] 10=20;20,21=21
[H:20][CH:21]1C2C3CC4=C5C2(CCN3C6CCCCC6)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4C6CCCCC6)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
CC[O-:10].C[P+:20](C)(C)Br>>CC[O:10][P:20](C)(C)(C)Br 10=20,
[H:20][CH2:21][C:22](=[O:23])CCC1CCCCC1=O.CC[O-:10]>>[H:20][O:10]CC.[CH2:21]=[C:22](CCC1CCCCC1=O)[O-:23] 10=20;22,23=23;20,21=21,22
[B:31]([OH:30])([F-:32])([F:33])[F:34].[CH3:1][CH2:2][CH2:3][CH2:4][N+:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:10][CH2:11][CH2:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH3:17].[CH3:28][C+:27]1[CH2:29][C:19](=[O:18])[C:20](=[CH:23][C:24]12[CH2:25][CH2:26]2)[C:21]#[N:22].[Br-:35]>>[B:31]([OH:30])([F-:32])([F:33])[F:34].[CH3:17][CH2:16][CH2:15][CH2:14][N+:5]([CH2:10][CH2:11][CH2:12][CH3:13])([CH2:6][CH2:7][CH2:8][CH3:9])[CH2:4][CH2:3][CH2:2][CH3:1].[CH3:28][C:27]1=[C:24]([CH:23]=[C:20]([C:19](=[O:18])[CH2:29]1)[C:21]#[N:22])[CH2:26][CH2:25][Br:35] 35=25;25,24=24,27
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
C[O+:21]=[CH2:20].[Cl-:10]>>C[O:21][CH2:20][Cl:10] 10=20;20,21=21
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C[S+](C4=CC=CC=C4)[O-:10])O.CC(=O)O[C:20](=[O:21])C.CC(=O)[O-].[Na+]>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C[S+](C4=CC=CC=C4)[O:10][C:20](C)([O-:21])OC(=O)C)O.CC(=O)[O-].[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(=O)CCC(=[O:10])C1=C(C=CC=C1)Br.C1=CC=CC=C1>>[H:20][O+:10]=C(CCC(=O)C)C1=C(C=CC=C1)Br.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
